US08372842B2
NCS (1.57 g, 11.8 mmol) was added in one portion to a solution of 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (3.00 g, 11.8 mmol) in DMF (30 mL) at room temperature. The mixture was stirred at 60° C. for 1 hour and then cooled to room temperature. After 18 hours, an additional lot of NCS (0.5 eq.) was added to the reaction mixture and stirred at room temperature for an additional 48 hours. The reaction mixture was poured into water (150 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed once with water (50 mL), dried (MgSO4), filtered, and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel (Biotage Flash 40M+) eluting with 2% MeOH/CH2Cl2 to provide 5-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (466 mg, 1.61 mmol, 13.7% yield). LCMS (APCI+) m/z 290 (M+H)+.

reactant | NCS | 11.8 mmol, 1.57 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 11.8 mmol, 3.00 g | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | NCS | 0.5 eq. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | water | 150 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 1.61 mmol, 466 mg, 13.7% yield | ClC1=C(C2=C(N=C1)N(N=C2)CC2=CC=C(C=C2)OC)O | C14H12ClN3O2
